US07910611B2
Next, (R)-(−)-2-phenylpropionyl chloride prepared from (R)-(−)-2-phenylpropionic acid (4.65 g, 3.10 mmol) and thionyl chloride (30 mL), and N-[2-(3-acetyl-5-amino-2-phenyl-2,3-dihydro-1,3,4-thiadiazol-2-yl)ethyl]methane-sulfonamide obtained above were treated in pyridine (5.0 mL, 61.8 mmol) in the same manner as that in Step 1 of Example 20, and the resultant was purified by silica gel column chromatography (chloroform/n-hexane/ethyl acetate/methanol=20/3/2/1) to give one diastereomer of N-[4-acetyl-5-(2-methanesulfonylaminoethyl)-5-phenyl-4,5-dihydro-1,3,4-thiadiazol-2-yl]-2-phenylpropanamide (0.75 g, 12%) as a fraction eluted first, and another diastereomer of N-[4-acetyl-5-(2-methane-sulfonylaminoethyl)-5-phenyl-4,5-dihydro-1,3,4-thiadiazol-2-yl]-2-phenylpropanamide (0.82 g, 13%) as a fraction eluted later.

reactant | (R)-(−)-2-phenylpropionyl chloride | C1(=CC=CC=C1)[C@H](C(=O)Cl)C | C9H9ClO
reactant | (R)-(−)-2-phenylpropionic acid | 3.10 mmol, 4.65 g | C1(=CC=CC=C1)[C@H](C(=O)O)C | C9H10O2
reactant | N-[2-(3-acetyl-5-amino-2-phenyl-2,3-dihydro-1,3,4-thiadiazol-2-yl)ethyl]methane-sulfonamide | C(C)(=O)N1C(SC(=N1)N)(C1=CC=CC=C1)CCNS(=O)(=O)C | C13H18N4O3S2
reactant | pyridine | 61.8 mmol, 5.0 mL | N1=CC=CC=C1 | C5H5N
solvent | thionyl chloride | 30 mL | S(=O)(Cl)Cl | Cl2OS
product | N-[4-acetyl-5-(2-methanesulfonylaminoethyl)-5-phenyl-4,5-dihydro-1,3,4-thiadiazol-2-yl]-2-phenylpropanamide | 0.75 g, 12% | C(C)(=O)N1N=C(SC1(C1=CC=CC=C1)CCNS(=O)(=O)C)NC(C(C)C1=CC=CC=C1)=O | C22H26N4O4S2
